US06821977B2
5-Chloro-1H-indole-2-carboxylic acid [9-(2-hydroxy-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-2-yl]-amide
{2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-7,8-dihydro-6H-5-oxa-9-aza-benzocyclohepten-9-yl}-acetic acid (80 mg) was dissolved in THF (3 mL) and treated with 1.0 M BH3/THF at room temperature. The reaction was concentrated in vacuo, diluted with EtOAc and washed with 1N HCl. The crude product was purified by preparative TLC (EtOAc) to yield 27 mg of the product as a crystalline solid. LCMS: AP+ 386/388.

reactant | {2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-7,8-dihydro-6H-5-oxa-9-aza-benzocyclohepten-9-yl}-acetic acid | 80 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)NC=1C=CC2=C(N(CCCO2)CC(=O)O)C1 | C20H18ClN3O4
reactant | BH3/THF | 1.0 M | B.C1CCOC1
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-Chloro-1H-indole-2-carboxylic acid [9-(2-hydroxy-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-2-yl]-amide | 27 mg | OCCN1CCCOC2=C1C=C(C=C2)NC(=O)C=2NC1=CC=C(C=C1C2)Cl | C20H20ClN3O3
